US07211440B2
4,4,5,5,6,6,6-Heptafluoro-1-(2-thienyl)-1,3-hexanedione
The compound was synthesized according to example 1 using 2-acetyl-thiophene and ethyl heptafluorobutyrate as starting materials. 1H NMR (CDCl3): 6.49 (s, 1 H); 7.21 (dd, 1 H, J=3.8 & 5.1); 7.77 (dd, 1 H, J=1.2 & 5.1 Hz); 7.85 (dd, 1 H, J=1.2 & 3.8 Hz). IR (film): 1589 (C═O); 1230 (C—F).

reactant | 2-acetyl-thiophene | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | ethyl heptafluorobutyrate | FC(C(C(C(=O)OCC)(F)F)(F)F)(F)F | C6H5F7O2
product | 4,4,5,5,6,6,6-Heptafluoro-1-(2-thienyl)-1,3-hexanedione | FC(C(CC(=O)C=1SC=CC1)=O)(C(C(F)(F)F)(F)F)F | C10H5F7O2S
